US05409809
2-(3,5-Dinitrophenyl)benzothiazole (I-1)
3,5-Dinitrobenzoic acid (5.30 g) was mixed with 40 ml polyphosphoric acid and heated to 64° C. o-Aminothiophenol (2.5 ml) was added and reaction maintained to 150° C. over 0.5 hr period. The mixture was quenched with 600 ml ice-water, neutralized with KOH, cooled, and filtered. The product yield was 3.20 g, mp 73.5°-84.5° C.

reactant | 3,5-Dinitrobenzoic acid | 5.30 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4N2O6
reactant | o-Aminothiophenol | 2.5 ml | NC1=C(C=CC=C1)S | C6H7NS
product | 2-(3,5-Dinitrophenyl)benzothiazole | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])C=1SC2=C(N1)C=CC=C2 | C13H7N3O4S
